US06576645B1
(Z)-4-[4-(2-Methylsulfanylethoxy)phenyl]-3,4-diphenyl-but-3-en-1-ol
The compound is prepared by using the method described in the example 1a starting from 4-(4-hydroxyphenyl)-3,4-diphenyl-but-3-en-1-ol (preparation described in U.S. Pat. No. 4,996,225) and 2-chloroethyl methyl sulfide.

reactant | 4-(4-hydroxyphenyl)-3,4-diphenyl-but-3-en-1-ol | OC1=CC=C(C=C1)C(=C(CCO)C1=CC=CC=C1)C1=CC=CC=C1 | C22H20O2
reactant | 2-chloroethyl methyl sulfide | CSCCCl | C3H7ClS
product | (Z)-4-[4-(2-Methylsulfanylethoxy)phenyl]-3,4-diphenyl-but-3-en-1-ol | CSCCOC1=CC=C(C=C1)\C(=C(\CCO)/C1=CC=CC=C1)\C1=CC=CC=C1 | C25H26O2S
